US05157041
294 mg of N2 -[3(S)-[[N-[6-(benzyloxycarbonyl)-2-naphthoyl]-L-asparaginyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N1 -tert.butyl-L-prolinamide in 100 ml of isopropanol was hydrogenated over 10% palladium-on-carbon at 20° C. and under atmospheric pressure for 16 hours. The catalyst was removed by filtration and the filtrate was evaporated to give 145 mg of N2 -[3(S)-[[N-(6-carboxy-2-naphthoyl)-L-asparaginyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N1 -tert.butyl-L-prolinamide as a white solid from methanol/ethyl acetate; MS: m/e 646 [M+H]+.

reactant | N2 [3(S)-[[N-[6-(benzyloxycarbonyl)-2-naphthoyl]-L-asparaginyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N1 -tert.butyl-L-prolinamide | 294 mg | N#N.C(C1=CC=CC=C1)OC(=O)C=1C=C2C=CC(=CC2=CC1)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@H]([C@@H](C[C@@]1(N(CCC1)C(C)(C)C)C(=O)N)O)CC1=CC=CC=C1
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
catalyst | palladium-on-carbon | [Pd] | Pd
product | N2 [3(S)-[[N-(6-carboxy-2-naphthoyl)-L-asparaginyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N1 -tert.butyl-L-prolinamide | 145 mg | N#N.C(=O)(O)C=1C=C2C=CC(=CC2=CC1)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@H]([C@@H](C[C@@]1(N(CCC1)C(C)(C)C)C(=O)N)O)CC1=CC=CC=C1 | InChI=1S/C35H43N5O7.N2/c1-34(2,3)40-15-7-14-35(40,33(37)47)20-28(41)26(16-21-8-5-4-6-9-21)38-31(44)27(19-29(36)42)39-30(43)24-12-10-23-18-25(32(45)46)13-11-22(23)17-24;1-2/h4-6,8-13,17-18,26-28,41H,7,14-16,19-20H2,1-3H3,(H2,36,42)(H2,37,47)(H,38,44)(H,39,43)(H,45,46);/t26-,27-,28+,35+;/m0./s1
